US04131674
Pyridine (10 cc.) and n-butyl isocyanate (11.2 cc.) are added to a suspension of 2-(7-chloro-1,8-naphthyridin-2-yl)-3-hydroxy-5-trifluoromethyl-isoindolin-1-one (3.8 g.) in acetonitrile (380 cc.). The mixture is heated to the reflux temperature and triethylamine (0.5 cc.) is then added. Refluxing is continued for 1 hour and 30 minutes until dissolution. The reaction mixture is then concentrated under reduced pressure (40 mm.Hg), and the residue is recrystallised from acetonitrile (48 cc.) to give 3-n-butylaminocarbonyloxy-2-(7-chloro-1,8-naphthyridin-2-yl)-5-trifluoromethyl-isoindolin-1-one (3.5 g.) melting at 120° C. and then at 176° C.

reactant | Pyridine | 10 cc | N1=CC=CC=C1 | C5H5N
reactant | n-butyl isocyanate | 11.2 cc | C(CCC)N=C=O | C5H9NO
reactant | 2-(7-chloro-1,8-naphthyridin-2-yl)-3-hydroxy-5-trifluoromethyl-isoindolin-1-one | 3.8 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=C(C=C2C1O)C(F)(F)F)=O | C17H9ClF3N3O2
reactant | triethylamine | 0.5 cc | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 380 cc | C(C)#N | C2H3N
product | 3-n-butylaminocarbonyloxy-2-(7-chloro-1,8-naphthyridin-2-yl)-5-trifluoromethyl-isoindolin-1-one | 3.5 g | C(CCC)NC(=O)OC1N(C(C2=CC=C(C=C12)C(F)(F)F)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C22H18ClF3N4O3
